US04304791
When desired, the above described halogenation reaction can be carried out utilizing less than one molar quantity of halogenating agent, thereby effecting monohalogenation instead of dihalogenation. The monohalogenated product can be further halogenated if desired with the same or a different halogenating agent. For instance a benzenamine such as N-(2,6-dinitro-4-trifluoromethylphenyl)-3-(1,1,2,2,2-pentafluoroethoxy)benzenamine can be reacted with about a 0.5 molar amount of chlorine in dichloromethane at about 25° C. to give N-(2,6-dinitro-4-trifluoromethylphenyl)-2-chloro-3-(1,1,2,2,2-pentafluoroethoxy)benzenamine. The latter compound can be further halogenated, for instance by reaction with about a 0.5 to 1.0 molar amount of bromine in dichloromethane, to provide the corresponding dihalogenated derivative, for example N-(2,6-dinitro-4-trifluoromethylphenyl)-2-chloro-4-bromo-5-(1,1,2,2,2-pentafluoroethoxy)benzenamine.

reactant | benzenamine | C1(=CC=CC=C1)N | C6H7N
reactant | N-(2,6-dinitro-4-trifluoromethylphenyl)-3-(1,1,2,2,2-pentafluoroethoxy)benzenamine | [N+](=O)([O-])C1=C(C(=CC(=C1)C(F)(F)F)[N+](=O)[O-])NC1=CC(=CC=C1)OC(C(F)(F)F)(F)F | C15H7F8N3O5
reactant | chlorine | ClCl | Cl2
solvent | dichloromethane | ClCCl | CH2Cl2
product | N-(2,6-dinitro-4-trifluoromethylphenyl)-2-chloro-3-(1,1,2,2,2-pentafluoroethoxy)benzenamine | [N+](=O)([O-])C1=C(C(=CC(=C1)C(F)(F)F)[N+](=O)[O-])NC1=C(C(=CC=C1)OC(C(F)(F)F)(F)F)Cl | C15H6ClF8N3O5
